US08022222B2
(4-Ethylpiperazin-1-yl)(3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenyl)methanone dihydrochloride
A 3 dram vial was charged with 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol) and THF (2 mL), and the reaction mixture was cooled to 0° C. Ethyl carbonochloridate (0.03359 mL, 0.3513 mmol) was added and the reaction mixture was stirred at 0° C. for 30 minutes. 1-Ethylpiperazine (0.1164 mL, 0.9164 mmol) was added and the reaction mixture was warmed to room temperature and stirred for 1 hour, and then 2N NaOH was added. The reaction mixture was extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. The residue was purified using prepacked silica gel column with 5% methanol in DCM as eluent to afford the desired product (0.085 g, 56.05% yield) as off white solid. Mass spectrum (esi) m/z=424 (100) (M+H-2HCl).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-Ethylpiperazine | 0.9164 mmol, 0.1164 mL | C(C)N1CCNCC1 | C6H14N2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-Ethylpiperazin-1-yl)(3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenyl)methanone dihydrochloride | 0.085 g, 56.05% yield | Cl.Cl.C(C)N1CCN(CC1)C(=O)C1=CC(=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C22H25N5O2S.2ClH/c1-3-26-9-11-27(12-10-26)21(28)17-5-4-6-18(13-17)29-19-7-8-23-20(14-19)25-22-24-16(2)15-30-22;;/h4-8,13-15H,3,9-12H2,1-2H3,(H,23,24,25);2*1H
